US09126940B2
To a solution of propan-1-ol (6.25 mL, 83.2 mmol) and 2,6-dimethylpyridine (11.6 mL, 99.8 mmol) in CH2Cl2 (500 mL) under a nitrogen atmosphere at −78° C. was added dropwise trifluoromethanesulfonic anhydride (14.0 mL, 83.2 mmol). After stirring for 30 min at −78° C., a solution of O-benzylhydroxylamine (10.7 ml, 91.5 mmol) in CH2Cl2 (10 mL) was added dropwise. The resulting mixture was stirred at −78° C. for 1 h, then warmed to room temperature, and stirred for additional 2 h. The reaction mixture was diluted with ice water (250 mL) and the organic layer was separated, washed with saturated aq. NaHCO3 (100 mL) and brine (100 mL). The aqueous layers were extracted again with EtOAc (1×200 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was purified by silica gel flash column chromatography (CH2Cl2). To the fraction containing product and 2,6-dimethylpyridine was added 2 M aq KOH (100 mL), that was then washed with MTBE. The aqueous layer was then brought to a pH of ˜5 with 1 M aq HCl and then extracted with MTBE (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to afford 11.2 g (75%) of O-benzyl-N-propylhydroxylamine.

reactant | propan-1-ol | 83.2 mmol, 6.25 mL | C(CC)O | C3H8O
reactant | 2,6-dimethylpyridine | 99.8 mmol, 11.6 mL | CC1=NC(=CC=C1)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 83.2 mmol, 14.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | O-benzylhydroxylamine | 91.5 mmol, 10.7 ml | C(C1=CC=CC=C1)ON | C7H9NO
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | O-benzyl-N-propylhydroxylamine | 11.2 g, 75% | C(C1=CC=CC=C1)ONCCC | C10H15NO
